US07119115B2
A mixture of 0.16 g of 3,6,6-triphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole and 3,6,6-triphenyl-2-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole is dissolved in 3.4 cm3 of ethanol and 1 cm3 of water, and 3.4 cm3 of an approximately 2N ethanolic solution of hydrogen chloride are then added. The solution is stirred for about 4 hours at a temperature in the region of 65° C. The reaction mixture is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up in 50 cm3 of water, and the pH is brought to about 10 by addition of aqueous 0.1N sodium hydroxide solution. After extraction with three times 50 cm3 of ethyl acetate, the combined organic phases are washed with 50 cm3 of aqueous 0.1N sodium hydroxide solution, 50 cm3 of water and 50 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). After flash chromatography on a column of silica [eluent: dichloromethane], 0.06 g of 3,6,6-triphenyl-6,7-dihydro-1H-indazole is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 3,6,6-triphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole | 0.16 g | C1(=CC=CC=C1)C1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H34N2OSi
reactant | 3,6,6-triphenyl-2-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole | C1(=CC=CC=C1)C1N(NC=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H36N2OSi
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 3.4 cm3 | C(C)O | C2H6O
solvent | water | 1 cm3 | O | H2O
product | 3,6,6-triphenyl-6,7-dihydro-1H-indazole | 0.06 g | C1(=CC=CC=C1)C1=NNC=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20N2
